US04282247
To a solution of 3.4 g of ethyl 5-(2-hydroxy-3-methylthiopropoxy)chromone-2-carboxylate in 20 ml of acetone there is added 11 ml of N sodium hydroxide and the mixture is heated at 50° C. for 10 minutes. After evaporating the solvent under reduced pressure, 30 ml of water are added, the resulting mixture is extracted with diethyl ether, filtered on charcoal and the limpid solution thus obtained is acidified with hydrochloric acid. The product which precipitates is filtered, washed with water and dried. Thus, 2.8 g of 5-(2-hydroxy-3-methylthiopropoxy)chromone-2-carboxylic acid is obtained as dihydrate (CM 57202); m.p. 76°-79° C.

reactant | ethyl 5-(2-hydroxy-3-methylthiopropoxy)chromone-2-carboxylate | 3.4 g | OC(COC1=C2C(C=C(OC2=CC=C1)C(=O)OCC)=O)CSC | C16H18O6S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 5-(2-hydroxy-3-methylthiopropoxy)chromone-2-carboxylic acid | 2.8 g | OC(COC1=C2C(C=C(OC2=CC=C1)C(=O)O)=O)CSC | C14H14O6S
